US08957074B2
In a 100 ml round bottom flask was combined 7-Cyclopentyl-2-[5-(3,6-diaza-bicyclo[3.2.1]octane-3-carbonyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (165 mg, 0.294 mmol) and DIPEA (0.128 ml, 0.735 mmol) which were diluted in Dioxane (6.00 ml) gave a yellowish heterogeneous solution. To this mixture was then added potassium carbonate (406 mg, 2.94 mmol) and trifluoroethyltriflate (0.106 ml, 0.735 mmol). The reaction was heated to 50° C. for 18 h. LCMS showed 100% conversion. The mixture was diluted in DCM, and washed with sat'd aq solution of NaHCO3, followed by a brine wash. The organic layer was then separated, dried over MgSO4 and evaporated to give a yellowish solid. This solid was triturated with EtOAc to give 98 mg of 7-Cyclopentyl-2-{5-[6-(2,2,2-trifluoro-ethyl)-3,6-diaza-bicyclo[3.2.1]octane-3-carbonyl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide in 58% yield. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.95 (1H, s), 8.84 (1H, s), 8.30-8.40 (2H, m), 7.81-7.83 (1H, d), 6.65 (1H, s), 4.71-4.78 (1H, quin.), 3.23-3.42 (7H, m), 3.06 (7H, br. s.), 2.30-2.45 (2H, br. s.), 1.99 (4H, br. s.), 1.55-1.75 (4H, d), 1.24-1.35 (2H, br. s). MS (ESI) m/e (M+H+): 570.9

reactant | 7-Cyclopentyl-2-[5-(3,6-diaza-bicyclo[3.2.1]octane-3-carbonyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.294 mmol, 165 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C(=O)N2CC3CNC(C2)C3)N1C1CCCC1)C | C26H32N8O2
reactant | DIPEA | 0.735 mmol, 0.128 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | potassium carbonate | 2.94 mmol, 406 mg | C([O-])([O-])=O.[K+].[K+]
reactant | trifluoroethyltriflate | 0.735 mmol, 0.106 ml | FC(COS(=O)(=O)C(F)(F)F)(F)F | C3H2F6O3S
solvent | Dioxane | 6.00 ml | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 7-Cyclopentyl-2-{5-[6-(2,2,2-trifluoro-ethyl)-3,6-diaza-bicyclo[3.2.1]octane-3-carbonyl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 98 mg, 58% yield | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C(=O)N2CC3CN(C(C2)C3)CC(F)(F)F)N1C1CCCC1)C | C28H33F3N8O2
